US06207644B1
tert-Butyl (3S)-3-benzyloxycarbonylamino-2-oxoperhydroazepine-1-acetate (15 g) was disolved in ethanol (150 ml) and purged with argon. 10% palladium or carbon (1.5 g) was added and the flask evacuated and filled with hydrogen from a balloon. The reaction mixture was stirred at ambient temperature for 4 hours. The reaction mixture was then purged with argon and filtered through diatomaceous earth. The filtrate was evaporated to give tert-butyl (3S)-3-amino-2-oxoperhydroazepine-1-acetate (7.7 g) as a viscous oil; NMR (CDCl3): 1.45 (s, 9H), 1.55-2.05 (m, 6H), 3.2-3.3 (d, 1H), 3.55-3.75 (two overlapping doublets, 2H), 3.95-4.25 (q, 2H); mass spectroscopy, m/e (ES+) 243.2 (MH+).

reactant | tert-Butyl (3S)-3-benzyloxycarbonylamino-2-oxoperhydroazepine-1-acetate | 15 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C(N(CCCC1)CC(=O)OC(C)(C)C)=O | C20H28N2O5
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | tert-butyl (3S)-3-amino-2-oxoperhydroazepine-1-acetate | 7.7 g | N[C@@H]1C(N(CCCC1)CC(=O)OC(C)(C)C)=O | C12H22N2O3
